US07528404B2
2-isopropenyl-2-oxazoline and 2-mercaptoethanol are reacted in toluene at 70° C. A solution of azodiisobutyronitrile (AIBN) in toluene is added to the mixture, and the reaction continued at 70° C. for several hours. The 2-isopropenyl-2-oxazoline/2-mercaptoethanol adduct is obtained after removal of the solvent under reduced pressure. This 2-isopropenyl-2-oxazoline/2-mercaptoethanol adduct is then reacted under nitrogen with maleic anhydride in 300 mL of dimethoxyethane at 70° C. for one hour. After cooling, the contents of the reaction are poured into heptane. The resulting product is dried at 40° C. in vacuo for 24 hours.

reactant | 2-isopropenyl-2-oxazoline | C(=C)(C)C=1OCCN1 | C6H9NO
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | azodiisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-isopropenyl-2-oxazoline 2-mercaptoethanol | C(=C)(C)C=1OCCN1.SCCO | InChI=1S/C6H9NO.C2H6OS/c1-5(2)6-7-3-4-8-6;3-1-2-4/h1,3-4H2,2H3;3-4H,1-2H2
